US09238656B2
(1S,2S,3R,4R)-3-[2-(1-Methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.0 mg, 0.193 mmol) and 1-methyl-1H-pyrazole-4-carbaldehyde (23.4 mg, 0.212 mmol) were reacted to produce 19 mg (28%) of the title compound. mp: 236-238° C., 1H NMR (300 MHz, DMSO-d6): 12.76 (s, 1H), 8.27 (s, 1H), 7.99 (s, 1H), 7.85 (s, 1H), 7.64 (s, 1H), 7.10 (s, 1H), 6.63 (m, 1H), 6.38 (s, 1H), 6.32 (m, 2H), 3.92 (s, 4H), 2.86 (s, 1H), 2.73 (s, 1H), 2.22 (s, 1H), 1.41 (s, 1H), 1.09 (s, 1H). MS: 350 (M+H), HPLC: 1.60 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.193 mmol, 50.0 mg | NC1=NC=CC(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C13H17N5O
reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 0.212 mmol, 23.4 mg | CN1N=CC(=C1)C=O | C5H6N2O
product | (1S,2S,3R,4R)-3-[2-(1-Methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 19 mg, 28% | CN1N=CC(=C1)C1=NC=2C(=NC=CC2N[C@H]2[C@H]([C@@H]3C=C[C@H]2C3)C(=O)N)N1 | C18H19N7O
